US06677375B2
3-[[4-(phenylethynyl)-(3-(trifluoromethyl)phenyl][[3-(trifluoromethyl)phenyl]methyl]amino]-1,1,1-trifluoro-2-propanol
The 3-[(3-(trifluoromethyl)4-bromophenyl)[[3-(1,1,1-trifluoromethyl)phenyl]methyl]-amino]-1,1,1-trifluoro-2-propanol (0.33 g, 0.648 mmol) and tributylstannylphenyl-acetylene (0.278 g, 0.712 mmol) were added to degassed 1,2-dichloroethane. The resulting mixture was stirred at room temperature for 10 min, then Pd(PPh3)2Cl2 (0.032 g. 0.045 mmol) was added. The mixture was stirred 18 h at room temperature. More tributyl-stannylphenylacetylene (0.278 g, 0.712 mmol) and Pd(PPh3)2Cl2 (0.032 g, 0.045 mmol) were added. The solution was refluxed for 72 h. The reaction mixture was diluted with diethyl ether and stirred in 10% aq. KF for 18 h. The organic layer was collected, dried over MgSO4 and concentrated. The crude product was purified by flash column chromatography on silica gel eluting with 1:4 ethyl acetate in hexane to give 0.102 g (30%) of the desired 3-[[+(phenylethynyl)-(3-(trifluoromethyl)phenyl]-[[3-(trifluoromethyl)phenyl]methyl]amino]-1,1,1-trifluoro-2-propanol product as a pure yellow oil. Anal calcd. For C26H18NOF9: C, 58.76; H, 3.41; N, 2.64. Found: C, 58.72; H, 3.67; N, 2.47. HRMS calcd. 532.1322 [M+H]+, found: 532.1304. 1H NMR (CDCl3) δ 7.52 (m, 4H), 7.38 (dd, 2H), 7.32 (dd, 2H), 7.24 (dd, 1H), 7.00 (s, 1H), 6.78 (dd, 1H), 4.80 (s, 2H), 4.36 (m, 1H), 3.92 (d, 1H), 3.65 (m, 1H), 2.60 (d, 11H). 19F NMR (CDCl3) δ −63.5 (s, 6F), −79.38 (d, 3F).

reactant | 3-[(3-(trifluoromethyl)4-bromophenyl)[[3-(1,1,1-trifluoromethyl)phenyl]methyl]-amino]-1,1,1-trifluoro-2-propanol | 0.648 mmol, 0.33 g | FC(C=1C=C(C=CC1Br)N(CC(C(F)(F)F)O)CC1=CC(=CC=C1)C(F)(F)F)(F)F | C18H13BrF9NO
reactant | tributylstannylphenyl-acetylene | 0.712 mmol, 0.278 g | C(CCC)[Sn](CCCC)(CCCC)C#CC1=CC=CC=C1
reactant | tributyl-stannylphenylacetylene | 0.712 mmol, 0.278 g | C(CCC)C1=C(C(=C(C=C1)C#C[SnH3])CCCC)CCCC
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | KF | [F-].[K+]
catalyst | Pd(PPh3)2Cl2 | 0.045 mmol, 0.032 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | Pd(PPh3)2Cl2 | 0.045 mmol, 0.032 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | [4-(phenylethynyl)-(3-(trifluoromethyl)phenyl][[3-(trifluoromethyl)phenyl]methyl]amino]-1,1,1-trifluoro-2-propanol | C1(=CC=CC=C1)C#CC1=C(C=C(C=C1)N(CC1=CC(=CC=C1)C(F)(F)F)C(C(F)(F)F)(C)O)C(F)(F)F | C26H18F9NO
